US05059609
2-Chloromethylquinoxaline
2-Methylquinoxaline (8.94 g) was combined with 50 ml CCl4 and 6.5 g Na2CO3 in a 125 ml beaker. This was heated to 68° C. and then Cl2 was introduced via an inverted funnel so that the Cl2 was bubbled very slowly. This was continued for 1 hour and then the reaction mixture was cooled to 20° C. in an ice bath and partitioned between ether and saturated NaHCO3 solution. The ether was separated, dried over MgSO4, and concentrated to dryness. The residue was immediately flashed down a column packed with 20 cm of 32-63 micron silica gel (the column having a diameter of 8 cm) using 1:1 ether:hexane as eluant. After a 1 liter forerun, 250 ml fractions were collected. Fractions 3-5 were combined and concentrated to yield 2.58 g (23%) of title product as a yellow solid; tlc (3:7 ethyl acetate:CH2Cl2) Rf 0.65. 1H-NMR(CDCl3)delta(ppm): 4.86 (s, 2H), 7.74-7.78 (m, 2H), 8.02-8.16 (m, 2H), 9.0 (m, 1H).

reactant | 2-Methylquinoxaline | 8.94 g | CC1=NC2=CC=CC=C2N=C1 | C9H8N2
reactant | Na2CO3 | 6.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Cl2 | ClCl | Cl2
solvent | CCl4 | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Chloromethylquinoxaline | 2.58 g, 23% | ClCC1=NC2=CC=CC=C2N=C1 | C9H7ClN2
